US04550103
To a solution of 16.4 g (75.0 mmole) of 5-oxo-1-(phenylmethyl)-3-pyrrolidinecarboxylic acid in 150 ml of acetonitrile was added 13.8 g (85.0 mmole) of carbonyldiimidazole. The reaction was heated to 60° C. for one hour, cooled to room temperature and treated with 5.0 g (85 mmole) of isopropylamine. The reaction was stirred at room temperature for 18 hours, the solvent removed in vacuo and the residue partitioned between chloroform and water. The organic layer was washed with water, 1N hydrochloric acid, dried over magnesium sulfate and evaporated in vacuo to give 18.6 g of 5-oxo-1-(phenylmethyl)-N-(2-propyl)-3-pyrrolidinecarboxamide, mp 122°-124° C.

reactant | 5-oxo-1-(phenylmethyl)-3-pyrrolidinecarboxylic acid | 75.0 mmole, 16.4 g | O=C1CC(CN1CC1=CC=CC=C1)C(=O)O | C12H13NO3
reactant | carbonyldiimidazole | 85.0 mmole, 13.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | isopropylamine | 85 mmole, 5.0 g | C(C)(C)N | C3H9N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 5-oxo-1-(phenylmethyl)-N-(2-propyl)-3-pyrrolidinecarboxamide | 18.6 g | O=C1CC(CN1CC1=CC=CC=C1)C(=O)NC(C)C | C15H20N2O2
